US08008327B2
To a stirred solution of 6-cyano-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid methyl ester (0.30 g, 1.1 mmol) in water (10 mL) and methanol (10 mL) was added a 2 N aqueous sodium hydroxide (10 mL, 20 mmol). The mixture was warmed at reflux for 1 hour, cooled to room temperature, and acidified with 1 N aqueous HCl (pH=3-4). The white solid was collected by filtration, washed with MeOH (10 mL) and dried to afford 6-cyano-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid.

reactant | 6-cyano-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid methyl ester | 1.1 mmol, 0.30 g | COC(=O)C=1C=2C=NN(C2C=C(C1)C#N)C1=CC=C(C=C1)F | C16H10FN3O2
reactant | sodium hydroxide | 20 mmol, 2 N, 10 mL | [OH-].[Na+]
reactant | HCl | 1 N, pH=3-4 | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 6-cyano-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid | C(#N)C=1C=C(C=2C=NN(C2C1)C1=CC=C(C=C1)F)C(=O)O | C15H8FN3O2
